### PR TITLE
feat(AlgebraicGeometry/EllipticCurve): generalise nonsingular condition

### PR DESCRIPTION
**Pull request by Multramate**
---

- [ ] depends on: #24593 
- [x] depends on: #25323 
- [x] depends on: #25378 
- [x] depends on: #25609 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Basic.lean [hunk 1]
```diff
@@ -189,99 +189,103 @@ noncomputable def polynomialY : R[X][Y] :=
...
-    nonsingular_zero, variableChange_a₃, variableChange_a₄, inv_one, Units.val_one]
-  simp only [variableChange_def]
-  congr! 3 <;> ring1
+  rw [nonsingular_iff, equation_iff_variableChange, equation_zero, ← neg_sub,
+    Ideal.span_pair_neg_left, Ideal.span_pair_comm, nonsingular_zero, variableChange_a₃,
+    variableChange_a₄, inv_one, Units.val_one]
+  ring_nf
 
-private lemma equation_zero_iff_nonsingular_zero_of_Δ_ne_zero (hΔ : W.Δ ≠ 0) :
+private lemma equation_zero_iff_nonsingular_zero_of_isUnit_Δ (hΔ : IsUnit W.Δ) :
```
Comment (kckennylau) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/Basic.lean:228]: it might be useful (to the computer scientists) to extract a lemma separately saying that the polynomial Δ is in the ideal generated by a3, a4, and a6.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by Multramate** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25991
